US06002008
4-[(3-Ethynylphenyl)amino]-5,6-bis(2-methoxyethoxy)-3-quinolinecarbonitrile
A stirred mixture of 4-Chloro-5,6-bis(2-methoxyethoxy)-3-quinolinecarbonitrile (2.52 g, 7.5 mmol), pyridine hydrochloride (0.87 g, 9.0 mmol), 3-ethynylaniline (1.06 g, 9.0 mmol), and ethoxyethanol (22 ml) was refluxed for 1.5 h, cooled, diluted with water containing potassium carbonate to give pH-9, and extracted with ethyl acetate. The extract was washed well with water, dried, and concentrated. The resulting solid was recrystallized from ethyl acetate to give an off-white solid, mp 150-153°.

reactant | 4-Chloro-5,6-bis(2-methoxyethoxy)-3-quinolinecarbonitrile | 7.5 mmol, 2.52 g | ClC1=C(C=NC2=CC=C(C(=C12)OCCOC)OCCOC)C#N | C16H17ClN2O4
reactant | pyridine hydrochloride | 9.0 mmol, 0.87 g | Cl.N1=CC=CC=C1
reactant | 3-ethynylaniline | 9.0 mmol, 1.06 g | C(#C)C=1C=C(N)C=CC1 | C8H7N
reactant | ethoxyethanol | 22 ml | C(C)OC(C)O | C4H10O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 4-[(3-Ethynylphenyl)amino]-5,6-bis(2-methoxyethoxy)-3-quinolinecarbonitrile | C(#C)C=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C(=C12)OCCOC)OCCOC)C#N | C24H23N3O4
